US05164440
Two hundred (200) g of montmorillonite which is the starting material with an average thickness of 9.5Å and one side length of about 0.1 μm of one unit of layered silicate was dispersed in 10 liters of water, and, to the resultant dispersion, added were 51.2 g of 12-aminododecanoic acid and 24 ml of conc. hydrochloric acid and the mixture was stirred for 5 minutes, followed by filtration. Further, the product was thoroughly washed and then vacuum dried. By this operation, a complex of 12-aminododecanoic acid ammonium ions and montmorillonite was prepared. The layered silicate content in the composite was about 80% by weight. The silicate interlayer distance in this composite as measured by X-ray diffraction was found to be 18.0Å.

reactant | 12-aminododecanoic acid | 51.2 g | NCCCCCCCCCCCC(=O)O | C12H25NO2
reactant | hydrochloric acid | 24 ml | Cl | ClH
solvent | water | 10 liters | O | H2O
product | 12-aminododecanoic acid ammonium | [NH4+].NCCCCCCCCCCCC(=O)O | InChI=1S/C12H25NO2.H3N/c13-11-9-7-5-3-1-2-4-6-8-10-12(14)15;/h1-11,13H2,(H,14,15);1H3/p+1
